US07176242B2
Step 1: Methyl 4-nitro-3-{[(trifluoromethyl)sulfonyl]oxy}benzoate
To an ice-cold, stirred solution of methyl 3-hydroxy-4-nitrobenzoate (1.5 g) and triethylamine (1.1 mL) in methylene chloride (15 mL) was added trifluoromethane sulfonic anhydride (1.4 mL), and the reaction mixture was stirred for 30 min. The mixture was diluted with methylene chloride, washed with saturated sodium bicarbonate, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure provided 2.4 g of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 8.47, 8.27, 8.15, 3.99.

reactant | methyl 3-hydroxy-4-nitrobenzoate | 1.5 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 1.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-nitro-3-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 2.4 g | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F | C9H6F3NO7S
